US08957069B2
1-[4-(Methylsulfanyl)phenyl]-4-(2,4,6,7-tetramethyl-2,3-dihydro-1-benzofuran-5-yl)piperazine
By using 1-(2,4,6,7-tetramethyl-2,3-dihydro-1-benzofuran-5-yl)piperazine (130 mg, 0.50 mmol) synthesized in Reference example 56 and 4-bromothioanisole (203 mg, 1.0 mmol), the reaction was carried out in the same manner as Example 23 to obtain the title compound 78 mg (yield 41%).

reactant | 1-(2,4,6,7-tetramethyl-2,3-dihydro-1-benzofuran-5-yl)piperazine | 0.50 mmol, 130 mg | CC1OC2=C(C1)C(=C(C(=C2C)C)N2CCNCC2)C | C16H24N2O
reactant | 4-bromothioanisole | 1.0 mmol, 203 mg | BrC1=CC=C(C=C1)SC | C7H7BrS
product | 1-[4-(Methylsulfanyl)phenyl]-4-(2,4,6,7-tetramethyl-2,3-dihydro-1-benzofuran-5-yl)piperazine | 78 mg, yield 41% | CSC1=CC=C(C=C1)N1CCN(CC1)C=1C(=C(C2=C(CC(O2)C)C1C)C)C | C23H30N2OS
